data/specific_train_final.csv
"CC([O:20][O:21][O])(Cl)Cl>>CC([O:20])(Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C1CCC(=CC1)CO)OO[O:20][N+:21](=O)[O-]>>CC(C)(C1CCC(=CC1)CO)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])([CH:10]COO)O.[O:20][O]>>CC(CO[N+](=O)[O-])([CH:10](COO)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:5]([O:4][O:3][N:2]=[O:1])[Br:6]>>[CH2:5]([O:4])[Br:6].[N:2](=[O:1])[O:3] 3,4-3; 3,4-4",Room Temperature,Initiation,homolyze
"[CH3:3][C:4]([CH2:8][O:9][O:10])([CH:5]=[CH:6][OH:7])[O:11][OH:12].[N:2]=[O:1]>>[CH3:3][C:4]([CH2:8][O:9][O:10][N:2]=[O:1])([CH:5]=[CH:6][OH:7])[O:11][OH:12] 10-10,2; 2-10,2",Room Temperature,Termination,recombine
"CC(C)C(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CC(C)C(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC12C=CC(C(C1O)OO2)O[O:10]>>[H:20][O:10]OC1C=CC2(C(C1OO2)O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)(CO[O:10])OC>>[H:20][O:10]OCC(C)(C)OC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][O:2][CH2:3][C:4]([CH3:13])([CH:5]([CH:9]=[O:10])[O:6][O:7][H:8])[O:11][H:12].[He]>>[H:8][O:7].[H:1][O:2][CH2:3][C:4]([CH3:13])([CH:5]([CH:9]=[O:10])[O:6])[O:11][H:12].[He] 7,6-6; 6,7-7",Light,Initiation,homolyze
"CC(C)(C1=CC=CC=C1)OO[O:20][N+:21](=O)[O-]>>CC(C)(C1=CC=CC=C1)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(O[O:20])Br.[N:10]=O>>C(O[O:20][N:10]=O)Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C[CH:21]=[CH2:20].[N+](=O)([O-])[O:10]>>CC(=O)C[CH:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)CCC(C)[O:20].[N+:10](=O)[O-]>>CC(C)CCC(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)O[O:20])C.[N+](=O)([O-])[O:10]>>CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC1=CC=C(C=C1)CO[O:10]>>[H:20][O:10]OCC1=CC=C(C=C1)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC12C=CC(C(C1(C)O)(OO2)C)[O:20][O:21]N=O>>CC12C=CC(C(C1(C)O)(OO2)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)[CH:10]C(C)(C)O.[O:20][O]>>CC(=O)[CH:10](C(C)(C)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC12C=CC(C(C1O)OO2)[O:21][O:20][O].[N+](=O)[O-]>>CCC12C=CC(C(C1O)OO2)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[N+](=O)[O-])Cl)O[O:20].[N:10]=O>>C(C(O[N+](=O)[O-])Cl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH:2]([CH3:3])[O:4][O:5][O:6][N+:7](=[O:9])[O-:8]>>[CH3:1][CH:2]([CH3:3])[O:4][O:5][O:6].[N+:7](=[O:9])[O-:8] 6,7-7; 6,7-6",Room Temperature,Initiation,homolyze
"[He:11].[CH3:1][C:2]([CH2:6][O:7][OH:8])([CH:3]=[CH:4][OH:5])[O:9][OH:10]>>[He:11].[CH3:1][C:2]([CH2:6][O:7])([CH:3]=[CH:4][OH:5])[O:9][OH:10].[OH:8] 7,8-8; 7,8-7",Room Temperature,Initiation,homolyze
"C[C:21]1=[CH:20]CC(CC1)C(=C)C.[OH:10]>>C[C:21]1CCC(C[CH:20]1[OH:10])C(=C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:5][C:3]1([CH:6]=[CH:7][CH:8]=[C:9]([C:2]1[OH:1])[CH3:10])[OH:4].[O:11][O:12]>>[H:5][O:12][O:11].[CH3:10][C:9]1=[CH:8][CH:7]=[CH:6][C:3](=[C:2]1[OH:1])[OH:4] 12-12,5; 3,5-12,5; 3,5-2,3; 2-2,3",Room Temperature,Termination,abstraction
"C(C(O)(Cl)Cl)OO[O:20][N+:21](=O)[O-]>>C(C(O)(Cl)Cl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
CC12C=CC(C)([O])C(OO2)C1O.O=[N:10][O:20]>>CC34C=CC(C)([O])C(OO4)C3O.O=[N+:10][O-:20] 10-20,Room Temperature,Propagation,ha resonance
"CCCC(C(C)O)[O:20].[N+:10](=O)[O-]>>CCCC(C(C)O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:16][O:17][O:18].[H:15][O:14][O:13][CH2:12][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11]>>[H:15][O:14][O:13][CH2:12][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11][H:16].[O:17][O:18] 16,17-17; 16,17-11,16; 11-11,16",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCCCCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CCCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCO[O:20].[N:10]=O>>CCCCCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C=CC(CO)OO[O:20][N+:21](=O)[O-]>>C=CC(CO)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C12C=CC(C(C1O)OO2)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)C12C=CC(C(C1O)OO2)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)CC(C)O[O:20].[N:10]=O>>CCC(C)CC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
